US04496560
Methanesulphonic acid (0.3 cc) is added to a suspension of 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-[2-(2-dimethylamino-ethylamino)-thiazol-5-yl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (0.3 g) in acetonitrile (3 cc). The yellow solution obtained is stirred at 23° C. for 5 minutes and is poured onto a mixture of a saturated sodium bicarbonate solution (50 cc) and ethyl acetate (50 cc). The organic phase is dried over anhydrous magnesium sulphate, filtered and concentrated under reduced pressure (20 mm Hg; 2.7 kPa). 7-Amino-2-benzhydryloxycarbonyl-3-[2-(2-dimethylamino-ethylamino)-thiazol-5-yl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (0.25 g) is thus obtained in the form of a yellow froth.

reactant | Methanesulphonic acid | 0.3 cc | CS(=O)(=O)O | CH4O3S
reactant | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-[2-(2-dimethylamino-ethylamino)-thiazol-5-yl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)NCCN(C)C)NC(=O)OC(C)(C)C)=O | C32H37N5O5S2
reactant | sodium bicarbonate | 50 cc | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | 50 cc | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 3 cc | C(C)#N | C2H3N
product | 7-Amino-2-benzhydryloxycarbonyl-3-[2-(2-dimethylamino-ethylamino)-thiazol-5-yl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.25 g | NC1C2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CN=C(S1)NCCN(C)C | C27H29N5O3S2
